datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC[N:10](CC(C)O)CC(O)CC.O=C([C@@H]1CCC[NH2+]1)N1CCC[C@H]1C(=O)[O:21][H:20]>>CCC[N+:10](CC(C)O)(CC(O)CC)[H:20].O=C([C@@H]1CCC[NH2+]1)N1CCC[C@H]1C(=O)[O-:21] 10=20;20,21=21",
"COc1ccc(S(=O)(=O)[N-:10]c2ccccc2)cc1.Cc1nnc(/C=N/[O:21][H:20])s1>>COc1ccc(S(=O)(=O)[N:10](c2ccccc2)[H:20])cc1.Cc1nnc(/C=N/[O-:21])s1 10=20;20,21=21",
"Cc1ccc(S(=N)(c2ccccc2)=[NH+:21][H:20])cc1.Cc1ccccc1C(=O)[O-:10]>>Cc1ccc(S(=N)(c2ccccc2)=[NH:21])cc1.Cc1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"C/C(=N/[O-:10])c1ccc([O-])cc1O.O/N=C/[N:21](O)[H:20]>>C/C(=N/[O:10][H:20])c1ccc([O-])cc1O.O/N=C/[N-:21]O 10=20;20,21=21",
"Cc1ccccc1[NH+:21](C)[H:20].Clc1ccc(C([NH2+]c2ccccc2)[O-:10])cc1>>Cc1ccccc1[NH:21]C.Clc1ccc(C([NH2+]c2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"CC(C)c1cccc2ccc([O:21][H:20])cc12.[SH2+]c1ccc2c(ccc[n:10]2)c1>>CC(C)c1cccc2ccc([O-:21])cc12.[SH2+]c1ccc2c(ccc[n+:10]2[H:20])c1 10=20;20,21=21",
"NC(=O)NOCC(=O)[O:21][H:20].O=C([O-])c1[nH+]c[nH]c1C(=O)[O-:10]>>NC(=O)NOCC(=O)[O-:21].O=C([O-])c1[nH+]c[nH]c1C(=O)[O:10][H:20] 10=20;20,21=21",
"CCCCCC(C)[NH:10]C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCCCC(C)[NH+:10](C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"Cc1ccc(/C(N)=[N:10]\O)cc1.[NH3+]c1ccc(-c2oc(-c3ccc(Cl)cc3)c[n+:21]2[H:20])cc1>>Cc1ccc(/C(N)=[N+:10](\O)[H:20])cc1.[NH3+]c1ccc(-c2oc(-c3ccc(Cl)cc3)c[n:21]2)cc1 10=20;20,21=21",
"CC1(C)CC([NH:10]CCO)CC(C)(C)[NH2+]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1(C)CC([NH+:10](CCO)[H:20])CC(C)(C)[NH2+]1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCCCC(=O)[O:21][H:20].Nc1nc[n:10]c2c1cnn2-c1ccccc1>>CCCCCCCCCC(=O)[O-:21].Nc1nc[n+:10]([H:20])c2c1cnn2-c1ccccc1 10=20;20,21=21",
"CC[N+](CC)(CC)[O-:10].c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[n+:21]4[H:20])[nH+]3)n2)c[nH+]1>>CC[N+](CC)(CC)[O:10][H:20].c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[n:21]4)[nH+]3)n2)c[nH+]1 10=20;20,21=21",
"CCCCCC(N)=[N+:21](N(C)C)[H:20].Cc1nn(-c2ccccc2)c([O-:10])c1C>>CCCCCC(N)=[N:21]N(C)C.Cc1nn(-c2ccccc2)c([O:10][H:20])c1C 10=20;20,21=21",
"C[NH:10]CC(=O)NCCc1c[nH]cn1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](CC(=O)NCCc1c[nH]cn1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1cccc(C[N+:21](C)(C)[H:20])c1O.C[C@@H]([C@H](O)c1ccccc1)[NH:10]C>>COc1cccc(C[N:21](C)C)c1O.C[C@@H]([C@H](O)c1ccccc1)[NH+:10](C)[H:20] 10=20;20,21=21",
"CCC[NH:10]CC(=O)O.COc1ccc(OC)c2c1n(C)c(CO)[n+:21]2[H:20]>>CCC[NH+:10](CC(=O)O)[H:20].COc1ccc(OC)c2c1n(C)c(CO)[n:21]2 10=20;20,21=21",
"COc1ccc([NH+:21](CCS)[H:20])cc1.Cn1cnc2c1[N-:10]C(=O)NC2=O>>COc1ccc([NH:21]CCS)cc1.Cn1cnc2c1[N:10]([H:20])C(=O)NC2=O 10=20;20,21=21",
"CSc1cc[n+:21]([H:20])cc1.Nc1[nH]c2cc3c(cc2[n:10]1)CCCC3>>CSc1cc[n:21]cc1.Nc1[nH]c2cc3c(cc2[n+:10]1[H:20])CCCC3 10=20;20,21=21",
"C1C[NH+](CC[N:10]2CCOCC2)CCO1.CC(C)CCP(=O)(CCC(C)C)[O:21][H:20]>>C1C[NH+](CC[N+:10]2([H:20])CCOCC2)CCO1.CC(C)CCP(=O)(CCC(C)C)[O-:21] 10=20;20,21=21",
"CCCCCC(C)[NH:10]C.COC(=O)C1C[N+:21]2([H:20])CCC1CC2>>CCCCCC(C)[NH+:10](C)[H:20].COC(=O)C1C[N:21]2CCC1CC2 10=20;20,21=21",
"O=P([O-])([O-])c1cn2c([n:10]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO.c1c[n+:21]([H:20])ccn1>>O=P([O-])([O-])c1cn2c([n+:10]1[H:20])[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO.c1c[n:21]ccn1 10=20;20,21=21",
"CCNc1nc(NCC)[n+:21]([H:20])c(NCC)n1.CC[N:10](CC)CCNc1nc(C)cc(Nc2ccc(Cl)cc2)n1>>CCNc1nc(NCC)[n:21]c(NCC)n1.CC[N+:10](CC)(CCNc1nc(C)cc(Nc2ccc(Cl)cc2)n1)[H:20] 10=20;20,21=21",
"CC(C)(S)C(C(=O)[O-:10])n1cc[nH+]c1Cc1ccccc1.CC1=C/C(=[O+:21]/[H:20])N(C)C=N1>>CC(C)(S)C(C(=O)[O:10][H:20])n1cc[nH+]c1Cc1ccccc1.CC1=CC(=[O:21])N(C)C=N1 10=20;20,21=21",
"CC1CCCC(C(=O)[O-:10])c2nnnn21.NC(=O)c1c(CC(=O)[O:21][H:20])n[nH]c1N>>CC1CCCC(C(=O)[O:10][H:20])c2nnnn21.NC(=O)c1c(CC(=O)[O-:21])n[nH]c1N 10=20;20,21=21",
"[O-]c1cc2ccccc2cc1C1=[N:10]CCN1.c1ccc([NH+:21](C2CCCCC2)[H:20])cc1>>[O-]c1cc2ccccc2cc1C1=[N+:10]([H:20])CCN1.c1ccc([NH:21]C2CCCCC2)cc1 10=20;20,21=21",
"CC(C)(C(=O)[O-])[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)(C(=O)[O-])[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)CCCC(=O)[O-:10].CC[N+:21](CC)(CC(=O)Nc1c(C)cccc1C)[H:20]>>CC(=O)CCCC(=O)[O:10][H:20].CC[N:21](CC)CC(=O)Nc1c(C)cccc1C 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[Si](C)(C)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[Si](C)(C)C[NH2+:10][H:20] 10=20;20,21=21",
"C[NH+]1CCCC1c1c[n+:21]([H:20])cc2[nH]c3ccccc3c12.Cc1ccnc(-c2cc(C)cc[n:10]2)c1>>C[NH+]1CCCC1c1c[n:21]cc2[nH]c3ccccc3c12.Cc1ccnc(-c2cc(C)cc[n+:10]2[H:20])c1 10=20;20,21=21",
"Cc1ccc(C(c2ccccc2)=[NH:10])c(C)c1.O=C(CCC(=O)[O:21][H:20])c1ccc(-c2ccccc2)cc1>>Cc1ccc(C(c2ccccc2)=[NH+:10][H:20])c(C)c1.O=C(CCC(=O)[O-:21])c1ccc(-c2ccccc2)cc1 10=20;20,21=21",
"C[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CS(C)=[O+:21][H:20].c1coc(-c2cccc[n:10]2)c1>>CS(C)=[O:21].c1coc(-c2cccc[n+:10]2[H:20])c1 10=20;20,21=21",
